US06710056B2
4-Guanidino-2-methoxybenzoic acid hydrochloride:
384 mg of methyl 4-guanidino-2-methoxybenzoate trifluoroacetate was dissolved in 8 ml of 3 M hydrochloric acid, and they were stirred at 80° C. for 2.5 hours. The solvent was evaporated to obtain the title compound.

reactant | methyl 4-guanidino-2-methoxybenzoate trifluoroacetate | 384 mg | FC(C(=O)O)(F)F.N(C(=N)N)C1=CC(=C(C(=O)OC)C=C1)OC
reactant | hydrochloric acid | 3 M, 8 ml | Cl | ClH
product | 4-Guanidino-2-methoxybenzoic acid hydrochloride | Cl.N(C(=N)N)C1=CC(=C(C(=O)O)C=C1)OC | InChI=1S/C9H11N3O3.ClH/c1-15-7-4-5(12-9(10)11)2-3-6(7)8(13)14;/h2-4H,1H3,(H,13,14)(H4,10,11,12);1H
